US06974806B2
Synthesis of (2,8-dioxo-4-phenyl-2,6,7,8-tetrahydrocyclopenta[g]chromen-3-yl)acetic acid
Ethyl(2,8-dioxo-4-phenyl-2,6,7,8-tetrahydrocyclopenta[g]chromen-3-yl)acetate (1.2 g) was dissolved in acetic acid (20 ml) and concentrated hydrochloric acid (10 ml), and heated under reflux for 30 minutes. The reaction solution was concentrated under reduced pressure, and the resultant residue was dissolved in a solvent mixture of THF (10 ml) and ethyl acetate (50 ml), and then washed with water followed by a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure, and the residue was purified by recrystallization from ethyl acetate to obtain the title compound (0.87 g, yield: 79%).

reactant | Ethyl(2,8-dioxo-4-phenyl-2,6,7,8-tetrahydrocyclopenta[g]chromen-3-yl)acetate | 1.2 g | C(C)OC(CC=1C(OC2=CC3=C(C=C2C1C1=CC=CC=C1)CCC3=O)=O)=O | C22H18O5
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (2,8-dioxo-4-phenyl-2,6,7,8-tetrahydrocyclopenta[g]chromen-3-yl)acetic acid | 0.87 g, yield: 79% | O=C1OC2=CC3=C(C=C2C(=C1CC(=O)O)C1=CC=CC=C1)CCC3=O | C20H14O5
